.subckt NOR a b out vdd gnd

    Mp1 out a gnd gnd CMOSN W = {wn1} L = {ln1}
    Mp2 out b gnd gnd CMOSN W = {wn2} L = {ln2}
    MN3 y a vdd vdd CMOSP W={wp1} L = {lp1}
    MN4 out b y vdd CMOSP W={wp2} L = {lp2}
.ends NOR