.subckt XOR a b out vdd gnd
    .include NAND.sub
    X1 a b c vdd gnd NAND
    X2 a c d vdd gnd NAND
    X3 b c e vdd gnd NAND
    X4 e d out vdd gnd NAND
.ends XOR