.subckt andg ouy5 ouy4 ouy3 ouy2 ouy1 A4 A3 A2 A1 B4 B3 B2 B1 vdd gnd

    .include AND.sub
    X6 gnd gnd ouy5 vdd gnd AND
    X1 A1 B1 ouy1 vdd gnd AND
    X2 A2 B2 ouy2 vdd gnd AND
    X3 A3 B3 ouy3 vdd gnd AND
    X4 A4 B4 ouy4 vdd gnd AND
    
.ends andg