.subckt fulladder sum carry a b c vdd gnd

    .include XOR.sub
    .include AND.sub
    X1 a b s0 vdd gnd XOR
    X2 s0 c sum vdd gnd XOR
    X3 a b p vdd gnd AND
    X4 s0 c h vdd gnd AND
    X5 p h carry vdd gnd XOR


.ends fulladder